Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin / Tegaderm 
/ diazepam
 
Attending: ___
 
Chief Complaint:
Monitoring with pheresis

 
Major Surgical or Invasive Procedure:
Pheresis catheter placement

 
History of Present Illness:
___ woman with morbid obesity, history of Idiopathic axonal 
sensorimotor polyneuropathy treated with periodic plasmapheresis 
complicated previously with vasospasm and ST elevation, who is 
admitted for course of plasmapheresis.

Regarding her extensive neurologic workup: per OMR: 
She initially presented to ___ in ___ for evaluation of man 
years of symptoms, including lower extremity weakness which 
progressed proximally, decreased sensation, and paresthesias. 
She was wheelchair bound at the time of evaluation. She had 
extensive workup including sural nerve biopsy which showed 
severe loss of
all fiber types and NCS showed severe sensory axonal 
polyneuropathy without myopathy. Labs sent including anti-Ro, 
anti-La, ___, HIV, Lyme, anti-IF were all negative. She 
was treated with serial 5-day courses of IVIg with improvement. 
Ultimately treated w/ plasmapheresis with some effect.

At this point sessions occur about yearly (her last session was 
in ___. Of note, she has had adverse reactions to pheresis 
in the past including provocation of coronary vasospasm and 
central line infection. Therefore she is admitted for monitoring 
during this course of pheresis. Per review of cardiology notes, 
it
appears that she had an episode of chest discomfort in ___ with 
STE on EKG in V3, V4, with follow up PMIBI also in ___ 
unremarkable. She is on atorvastatin for her hyperlipidemia.

Per discussion w/ pt today: her first pheresis was in ___ and 
was c/b vasospasm, bradycardia, and she subsequently had 
plasmapheresis in ___, and most recently underwent plasma 
exchange in ___. She usually tells her neurology team 
when she feels her symptoms have progressed to the point where 
she needs to have plasmapheresis, and they have been discussing 
doing it since last ___ but finally in the past ___ months she 
felt her progressive weakness (arms and legs, left side worse 
than right). SHe is chronically wheelchair bound as a result of 
this process but states that at times she gets to the point (as 
now)
where she can no longer write due to weakness in the arms and 
hands and that prompted her to come in for pheresis this time.  
She reports that she gets progressive numbness in the 
extremities also with her progressive demyelinating disease and 
that this has progressed along with weakness. Fatigue is also a 
significant symptom.   Otherwise her medical history is 
significant for recurrent partial bowel obstructions which hav 
never been surgically managed, and she takes aggressive bowel 
medications to prevent constipation. Her last bowel movement was 
this morning and she hasn't had issues with this in months.

She underwent her first session today ___ (has triple lumen IJ 
temp line w/ tip in lower SVC, approved for use). Given her h/o 
bradycardia during pheresis she was on tele, initial HR was 59, 
she did not tolerate the initial rate of pheresis (stated she 
felt "funny") and stated she felt she would pass out, but 
ultimately tolerated a lower rate. HR was 57, sinus brady, at 
the time of that infusion. Ultimately she felt better after 
stopping
the infusion and pheresis resumed, which she tolerated without 
further events.

At the time of my interview she denies chest pain, dizziness, 
lightheadedness, shortness of breath. She does use nitroglycerin 
for CP at home but states the last time she required this was 
___ months ago. She notes that she has had a chronic 
nonproductive cough for the past few months, along with 
intermittent mild
headaches for the past few months, but these are not present 
currently, and she denies fevers, dysuria, diarrhea, 
nausea/vomiting. All other 10 point ROS negative.
 
Past Medical History:
Severe idiopathic axonal sensorimotor polyneuropathy with
symptoms beginning in the late ___ or early ___. Symptoms began
with weakness and sensory loss in the legs proximally. Symptoms
have been responsive to plasmapheresis approximately yearly. As
noted above, she is wheelchair bound.
TREATMENT HISTORY:
___ Weakness and sensory loss in legs, torso and arms
___ Visit with Dr. ___
___ Sural nerve biopsy
Pathology: marked loss of large and small myelinated axons 
___ - ___ IVIG
___ Worse symptoms with dysarthria, hypophonia, and dsypahgia 
___ Plasmapheresis, had coronary vasospasm, bradycardia and 
one episode of bilateral shoulder pain
___ line infection
___ Plasmapheresis, nausea, vomiting
___ Plasmapheresis, transient nausea and emesis
___ Plasmaexchange
___ Had abdominal pain, procedure postponed
___ - ___ Plasma exchange x4
___ Plasma exchange #1

Vitamin B12 deficiency
History of partial small-bowel obstruction
Diabetes, not on any medications at present
Hypertension
GERD
Depression
Diverticulosis
Coronary vasospasm
Status post C-section x 2
Status post hysterectomy for leiomyomata
Left breast lumpectomy
Status post bilateral knee replacements
History of abdominal hematoma due to subcutaneous heparin

 
Social History:
___
Family History:
Mother, brother with diabetes. Mother with liver, cervix, and
colon cancer, as well as CAD; father with lung cancer.

 
Physical Exam:
Admission:
VITAL SIGNS:  98.2  ___  56  20  100% RA
General:  NAD, morbidly obese female resting in bed comfortably
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  CTAB
GI:  BS+, soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis; no inguinal
adenopathy. 
SKIN:  No rashes or skin breakdown
NEURO: Oriented x3. PERRLA, EOMI. Pt has ___ strength in LUE
and LLE slightly worse than right side, but states this is
chronically worse. able to lift lower legs off examining table.

Discharge:
VS: 98.2PO 138 / 58 R Lying 63 16 98 RA 
Gen: NAD, sitting in bed comfortably. 
Eyes: EOMI, sclerae anicteric
ENT: MMM, OP clear
___: RRR, no MRG 
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+, obese
Skin: Central line on right anterior chest wall c/d/i
Neuro: AAOx3. Strength ___ in upper and lower extremities
Psych: Full range of affect.

 
Pertinent Results:
Admission:
___ 08:00AM   GLUCOSE-96 UREA N-14 CREAT-1.0 SODIUM-141 
POTASSIUM-4.7 CHLORIDE-102 TOTAL CO2-31 ANION GAP-13
___ 08:00AM   estGFR-Using this
___ 08:00AM   ALK PHOS-99
___ 08:00AM   CALCIUM-9.6 PHOSPHATE-3.8 MAGNESIUM-2.1
___ 08:00AM   WBC-4.3 RBC-4.49 HGB-13.4 HCT-41.5 MCV-92 
MCH-29.8 MCHC-32.3 RDW-14.1 RDWSD-48.0*
___ 08:00AM   PLT COUNT-178

Discharge:
___ 09:02AM BLOOD WBC-6.0 RBC-4.24 Hgb-13.0 Hct-39.2 MCV-93 
MCH-30.7 MCHC-33.2 RDW-15.8* RDWSD-53.8* Plt ___
___ 09:02AM BLOOD Glucose-145* UreaN-15 Creat-0.9 Na-139 
K-4.1 Cl-106 HCO3-25 AnGap-12
___ 09:02AM BLOOD Calcium-9.4 Phos-3.5 Mg-1.___ year old female with idiopathic axonal sensorimotor 
polyneuropathy requiring almost yearly plasmapheresis presented 
with recurrent symptoms of distal numbness and weakness. She was 
admitted for pheresis given history of coronary vasospasm with 
prior plasma exchange. 

# Idiopathic severe axonal sensorimotor polyneuropathy: Patient 
had been experiencing progressive distal weakness and numbness 
most notable in her RLE. She has a history of coronary vasospasm 
in setting of prior plasmapheresis. Patient received first 
plasmapheresis on the day of admission. She felt like she was 
going to pass out during the pheresis but this did not recur in 
subsequent sessions. The patient completed a total of 5 sessions 
of plasmaphersis. She was monitored on telemetry without any 
incidents and she experienced no cardiac symptoms. She will 
follow up with her neurologist on discharge.

# Hyperlipidemia: continued atorvastatin

# Chronic constipation/History of bowel obstructions: Patient 
was continued on bowel regimen and had regular bowel movements.

# Hyperglycemia: History of DM, off medications for ___ years. 
Last hemoglobinA1c was low therefore FSBS were not checked.

# Depression and anxiety: Continued bupropion/zoloft/lorazepam 
prn

# Chronic pain: Continued gabapentin

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. BuPROPion 150 mg PO BID 
4. Gabapentin 100 mg PO BID 
5. Lactulose 15 mL PO Q8H:PRN constipation 
6. LORazepam 0.5 mg PO QHS:PRN insomani 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
8. Ondansetron 4 mg PO Q8H:PRN nausea 
9. Sertraline 75 mg PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. Bisacodyl 10 mg PO DAILY:PRN constipation 
12. Docusate Sodium 100 mg PO BID 
13. Polyethylene Glycol 17 g PO BID 

 
Discharge Medications:
1. amLODIPine 2.5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Bisacodyl 10 mg PO DAILY:PRN constipation 
5. BuPROPion 150 mg PO BID 
6. Docusate Sodium 100 mg PO BID 
7. Gabapentin 100 mg PO BID 
8. Lactulose 15 mL PO Q8H:PRN constipation 
9. LORazepam 0.5 mg PO QHS:PRN insomani 
10. Ondansetron 4 mg PO Q8H:PRN nausea 
11. Polyethylene Glycol 17 g PO BID 
12. Sertraline 75 mg PO DAILY 
13. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
14. Miconazole Powder 2% 1 Appl TP TID:PRN skin irritation 
RX *miconazole nitrate 2 % Apply to affected area three times a 
day prn Disp #*1 Bottle Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Idiopathic axonal sensorimotor polyneuropathy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms. ___,

You were admitted for plasmapheresis to treat your idiopathic 
axonal sensorimotor polyneuropathy. You had no adverse reactions 
to the plasmaphereisis. No changes were made to your home 
medications. 

 
Followup Instructions:
___